US07465731B2
A solution of 10% HCl-MeOH solution (0.5 ml) was added to a mixture of (2E)-3-{6-[(1-benzyl-4-piperidyl)amino]-3-pyridyl}-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide (180 mg) in MeOH (5 ml) and stirred at 15-25° C. for 2 hours. The reaction mixture was evaporated in vacuo and the residue was triturated with small amount MeOH and acetone and the precipitate was collected by filtration to give (2E)-3-{6-[(1-benzyl-4-piperidyl)amino]-3-pyridyl}-N-hydroxyacrylamide dihydrochloride (120 mg)

reactant | HCl MeOH | 0.5 ml | Cl.CO
reactant | (2E)-3-{6-[(1-benzyl-4-piperidyl)amino]-3-pyridyl}-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide | 180 mg | C(C1=CC=CC=C1)N1CCC(CC1)NC1=CC=C(C=N1)/C=C/C(=O)NOC1OCCCC1 | C25H32N4O3
solvent | MeOH | 5 ml | CO | CH4O
product | (2E)-3-{6-[(1-benzyl-4-piperidyl)amino]-3-pyridyl}-N-hydroxyacrylamide dihydrochloride | 120 mg | Cl.Cl.C(C1=CC=CC=C1)N1CCC(CC1)NC1=CC=C(C=N1)/C=C/C(=O)NO | InChI=1S/C20H24N4O2.2ClH/c25-20(23-26)9-7-16-6-8-19(21-14-16)22-18-10-12-24(13-11-18)15-17-4-2-1-3-5-17;;/h1-9,14,18,26H,10-13,15H2,(H,21,22)(H,23,25);2*1H/b9-7+;;
